US05576324
(+)-5-Methyl-2-methylaminomethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
(+)-2-Formylaminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (460 mg, 1.78 mM) was dissolved in dry tetrahydrofuran (100 ml). To the solution, aluminum lithium hydride (135 mg, 3.57 mM) was added thereto. The mixture was dried while stirring in a bath of 50° C. in the atmosphere of nitrogen for 18 hours. The reaction mixture was cooled. A small amount of ethyl acetate was added. The solvent was distilled off under reduced pressure. 2N-caustic soda solution was added to the residue, followed by extraction with a solvent mixture of chloroform: methanol=10:1. The extract was dried, and the solvent was distilled off under reduced pressure. 360 mg of the title compound was obtained as a crude (+)-5-methyl-2-methylaminomethyl-2,3,6,7-tetrahydrofuro [2,3-f]quinoline-7-one (82.9%). The obtained crude was dissolved in methanol. 4N-HCl in 1,4-dioxane solution (0.4 ml) was added to the methanol solution of the crude, and the solution was concentrated. The resultant concentrate was recrystallized from methanol--ether, obtaining 276 mg of the title compound (66.7%) as yellow powder.

reactant | (+)-2-Formylaminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 1.78 mM, 460 mg | C(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C14H14N2O3
reactant | aluminum lithium hydride | 3.57 mM, 135 mg | [H-].[Li+].[Al+3].[H-].[H-].[H-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (+)-5-Methyl-2-methylaminomethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 360 mg | CC=1C=C2C(=C3C=CC(NC13)=O)OC(C2)CNC | C14H16N2O2
